US07109340B2
2.2 ml of an aqueous 5N hydrochloric acid solution are added to a solution of 200 mg of tert-butyl 3-(2-aminophenylcarbamoyl)-2,4,5,7-tetrahydro-pyrazolo[3,4-c]pyridine-6-carboxylate in 1 ml of ethanol. After stirring for 20 hours at 80° C., the reaction medium is brought back to ambient temperature. The insoluble material is removed by filtration through sintered glass and the filtrate is concentrated under reduced pressure. 84 mg of 3-(1H-benzimidazol-2-yl)-4,5,6,7-tetrahydro-2H-pyrazolo[3,4-c]pyridine hydrochloride are thus obtained in the form of an orange-coloured powder, the characteristics of which are as follows:

reactant | hydrochloric acid | 5N | Cl | ClH
reactant | tert-butyl 3-(2-aminophenylcarbamoyl)-2,4,5,7-tetrahydro-pyrazolo[3,4-c]pyridine-6-carboxylate | 200 mg | NC1=C(C=CC=C1)NC(=O)C=1NN=C2CN(CCC21)C(=O)OC(C)(C)C | C18H23N5O3
solvent | ethanol | 1 ml | C(C)O | C2H6O
product | 3-(1H-benzimidazol-2-yl)-4,5,6,7-tetrahydro-2H-pyrazolo[3,4-c]pyridine hydrochloride | 84 mg | Cl.N1C(=NC2=C1C=CC=C2)C=2NN=C1CNCCC12 | InChI=1S/C13H13N5.ClH/c1-2-4-10-9(3-1)15-13(16-10)12-8-5-6-14-7-11(8)17-18-12;/h1-4,14H,5-7H2,(H,15,16)(H,17,18);1H
